US05807860
N,N-dimethylformamide (180 ml), potassium carbonate (37.8 g, 0.273 mol), and 1,3-dibromopropane (93 ml, 0.916 mol) were added to 2-hydroxy-5,6,7,8-tetrahydro-1-nitronaphthalene (17.6 g, 0.091 mol) and the mixture was stirred at 70° C. for 4 hours. The precipitated salts were removed by filtration, and then the solvent was evaporated and the residue was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was evaporated. The residue was purified by silica gel chromatography (Wako Gell C-300: 500 g, eluent: ethyl acetate/hexane=1/20) to give 5,6,7,8-tetrahydro-1-nitro-2-(3-bromopropoxy)naphthalene (19.4 g).

reactant | potassium carbonate | 0.273 mol, 37.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-dibromopropane | 0.916 mol, 93 ml | BrCCCBr | C3H6Br2
reactant | 2-hydroxy-5,6,7,8-tetrahydro-1-nitronaphthalene | 0.091 mol, 17.6 g | OC1=C(C=2CCCCC2C=C1)[N+](=O)[O-] | C10H11NO3
solvent | N,N-dimethylformamide | 180 ml | CN(C=O)C | C3H7NO
product | 5,6,7,8-tetrahydro-1-nitro-2-(3-bromopropoxy)naphthalene | 19.4 g | [N+](=O)([O-])C1=C(C=CC=2CCCCC12)OCCCBr | C13H16BrNO3
